data/polar.json
{"reaction_name": "Cannizzaro reaction", "rsmi": "[C:1]([c:3]1[cH:15][cH:9][cH:5][cH:10][cH:16]1)(=[O:7])[H:19].[C:2]([c:4]1[cH:17][cH:11][cH:6][cH:12][cH:18]1)(=[O:8])[H:20].[H:13][O-:14]>>[C:1]([c:3]1[cH:15][cH:9][cH:5][cH:10][cH:16]1)(=[O:7])[O-:14].[C:2]([c:4]1[cH:17][cH:11][cH:6][cH:12][cH:18]1)([O:8][H:13])([H:19])[H:20]", "epd": [["Sigma-/LP+", [13, 14], [14]], ["LP-/Sigma+", [14], [1, 14]], ["Pi-/LP+", [1, 7], [7]], ["LP-/Pi+", [7], [1, 7]], ["Pi-/LP+", [2, 8], [8]], ["LP-/Sigma+", [8], [8, 13]], ["Pi-/LP+", [1, 7], [7]], ["LP-/Pi+", [7], [1, 7]], ["Sigma-/Sigma+", [1, 19], [2, 19]]]}
{"reaction_name": "Episulfonium-assisted substitution", "rsmi": "[Br:1][CH2:2][CH2:4][S:3][CH3:5].[Cl-:6]>>[Br-:1].[CH2:2]([CH2:4][S:3][CH3:5])[Cl:6]", "epd": [["LP-/Sigma+", [6], [2, 6]], ["Sigma-/LP+", [1, 2], [1]]]}
{"reaction_name": "Addition to sulfonyl isocyanates", "rsmi": "[N:6]1([c:11]2[c:30]([CH3:14])[cH:26][c:20]([CH3:18])[cH:29][c:33]2[CH3:17])[CH:25]=[CH:24][N:7]([c:12]2[c:31]([CH3:15])[cH:27][c:21]([CH3:19])[cH:28][c:32]2[CH3:16])[C:34]1=[CH2:23].[O:1]=[S:5](=[O:2])([N:13]=[C:10]=[O:22])[c:36]1[cH:8][cH:3][c:35]([CH3:37])[cH:4][cH:9]1>>[O:1]=[S:5](=[O:2])([N-:13][C:10](=[O:22])[CH2:23][c:34]1[n+:6](-[c:11]2[c:30]([CH3:14])[cH:26][c:20]([CH3:18])[cH:29][c:33]2[CH3:17])[cH:25][cH:24][n:7]1-[c:12]1[c:31]([CH3:15])[cH:27][c:21]([CH3:19])[cH:28][c:32]1[CH3:16])[c:36]1[cH:8][cH:3][c:35]([CH3:37])[cH:4][cH:9]1", "epd": [["LP-/Pi+", [6], [34, 6]], ["Pi-/Sigma+", [23, 34], [23, 10]], ["Pi-/LP+", [10, 13], [13]]]}
{"reaction_name": "Vinylogous Michael addition", "rsmi": "[C:1]1(=[CH2:8])[N:16]([CH3:3])[c:12]2[cH:6][cH:9][cH:10][cH:7][c:11]2[N:17]1[CH3:4].[CH3:2][O:5][c:13]1[cH:29][cH:20][c:19]([CH:26]=[C:25]2[CH:27]=[C:14]([Br:23])[C:18](=[O:22])[C:15]([Br:24])=[CH:28]2)[cH:21][cH:30]1>>[c:1]1([CH2:8][CH:26]([c:19]2[cH:20][cH:29][c:13]([O:5][CH3:2])[cH:30][cH:21]2)[c:25]2[cH:27][c:14]([Br:23])[c:18]([O-:22])[c:15]([Br:24])[cH:28]2)[n+:16]([CH3:3])[c:12]2[cH:6][cH:9][cH:10][cH:7][c:11]2[n:17]1[CH3:4]", "epd": [["LP-/Pi+", [16], [1, 16]], ["Pi-/Sigma+", [8, 1], [8, 26]], ["Pi-/Pi+", [26, 25], [25, 27]], ["Pi-/Pi+", [27, 14], [14, 18]], ["Pi-/LP+", [18, 22], [22]]]}
{"reaction_name": "Nucleophilic addition to an oxocarbenium C=O+ center", "rsmi": "[CH:5](=[O+:32][CH3:31])[c:34]1[cH:24][cH:22][cH:14][cH:23][cH:25]1.[N:1]1([c:19]2[cH:27][cH:2][n:33][cH:3][cH:28]2)[CH2:15][CH2:30][CH2:4][CH:16]1[C:26]([c:20]1[cH:6][cH:10][cH:17][cH:11][cH:7]1)([c:21]1[cH:8][cH:12][cH:18][cH:13][cH:9]1)[F:29]>>[N+:1]1(=[c:19]2[cH:27][cH:2][n:33]([CH:5]([O:32][CH3:31])[c:34]3[cH:24][cH:22][cH:14][cH:23][cH:25]3)[cH:3][cH:28]2)[CH2:15][CH2:30][CH2:4][CH:16]1[C:26]([c:20]1[cH:6][cH:10][cH:17][cH:11][cH:7]1)([c:21]1[cH:8][cH:12][cH:18][cH:13][cH:9]1)[F:29]", "epd": [["Pi-/LP+", [5, 32], [32]], ["LP-/Pi+", [1], [1, 19]], ["Pi-/Sigma+", [3, 33], [5, 33]], ["Pi-/Pi+", [19, 28], [3, 28]]]}
{"reaction_name": "Addition to sulfonyl isocyanates", "rsmi": "[O:2]=[S:8](=[O:3])([N:15]=[C:14]=[O:18])[c:21]1[cH:10][cH:4][c:20]([CH3:22])[cH:5][cH:11]1.[c:1]1([O-:19])[cH:16][cH:6][c:12]([O:13][CH3:9])[cH:7][cH:17]1>>[c:1]1([O:19][C:14]([N-:15][S:8](=[O:2])(=[O:3])[c:21]2[cH:10][cH:4][c:20]([CH3:22])[cH:5][cH:11]2)=[O:18])[cH:16][cH:6][c:12]([O:13][CH3:9])[cH:7][cH:17]1", "epd": [["LP-/Sigma+", [19], [19, 14]], ["Pi-/LP+", [14, 15], [15]]]}
{"reaction_name": "Deoxyhalogenation of alcohols", "rsmi": "[CH3:2][CH2:6][O:3][H:5].[H:1][Br:4]>>[CH3:2][CH2:6][Br:4].[H:1][O:3][H:5]", "epd": [["LP-/Sigma+", [4], [4, 6]], ["Sigma-/LP+", [3, 6], [3]], ["LP-/Sigma+", [3], [1, 3]], ["Sigma-/LP+", [1, 4], [4]]]}
{"reaction_name": "Addition to isothiocyanates", "rsmi": "[CH3:1][C:8](=[C:3]=[N-:12])[c:13]1[cH:14][cH:16][cH:18][cH:17][cH:15]1.[c:2]1([N:19]=[C:5]=[S:9])[cH:21][cH:10][c:6]([N+:20](=[O:4])[O-:7])[cH:11][cH:22]1>>[CH3:1][C:8]([C:3]#[N:12])([C:5]([S-:9])=[N:19][c:2]1[cH:21][cH:10][c:6]([N+:20](=[O:4])[O-:7])[cH:11][cH:22]1)[c:13]1[cH:14][cH:16][cH:18][cH:17][cH:15]1", "epd": [["LP-/Pi+", [12], [3, 12]], ["Pi-/Sigma+", [8, 3], [8, 5]], ["Pi-/LP+", [5, 9], [9]]]}
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[C:2]1(=[O:4])[N-:3][CH2:11][CH2:12][O:7]1.[cH:1]1[cH:5][cH:13][c:10]([N+:8](=[CH2:9])[CH3:15])[cH:14][cH:6]1>>[cH:1]1[cH:5][cH:13][c:10]([N:8]([CH2:9][N:3]2[C:2](=[O:4])[O:7][CH2:12][CH2:11]2)[CH3:15])[cH:14][cH:6]1", "epd": [["LP-/Sigma+", [3], [3, 9]], ["Pi-/LP+", [9, 8], [8]]]}
